US03972900
28.0 g of recrystallized N-bromosuccinimide were added to a solution of 32.5 g of 7-ethyl-2-(2-methyl-1,3-dioxolan-2-yl)benzofuran in 480 ml of carbon tetrachloride. The resulting suspension was stirred and heated under reflux for 12 hours. The mixture was cooled overnight at 0°C, precipitated succinimide was filtered off and the filtrate was evaporated at 30°C under reduced pressure. There was thus obtained crude 7-(1'-bromoethyl)-2-(2-methyl-1,3-dioxolan-2-yl) benzofuran which was used immediately in the next stage. The structure of this compound was confirmed by spectral data.

reactant | N-bromosuccinimide | 28.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 7-ethyl-2-(2-methyl-1,3-dioxolan-2-yl)benzofuran | 32.5 g | C(C)C1=CC=CC=2C=C(OC21)C2(OCCO2)C | C14H16O3
solvent | carbon tetrachloride | 480 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(1'-bromoethyl)-2-(2-methyl-1,3-dioxolan-2-yl) benzofuran | BrC(C)C1=CC=CC=2C=C(OC21)C2(OCCO2)C | C14H15BrO3
